US07820665B2
Step 5. N-(6-bromoimidazo[1,2-a]pyridin-2-yl)acetamide
To a 100 mL round-bottomed flask was added 6-bromoH-imidazo[1,2-a]pyridin-2-amine (0.771 g, 3.6 mmol), DCM (30 mL), pyridine (0.44 mL, 5.5 mmol), acetic anhyride (0.41 mL, 4.4 mmol) and DMAP (0.0022 g, 0.018 mmol). The mixture was stirred at 35° C. for 3 h. After cooling to rt, the mixture was concentrated and then taken up in water (100 mL) and extracted with 25% iPrOH/CHCl3 (3×75 mL). The combined extracts were washed with brine (75 mL), dried (Na2SO4) and concentrated in vacuo. The residue was dissolved in MeOH (2 M in NH3)/CH2Cl2 and concentrated onto silica. Purification by silica gel chromatography MeOH (2 M in NH3)/CH2Cl2) afforded the title compound as an orange solid (0.452 g, 49%). MS (ESI, positive ion) m/z: 254 (M(79Br)+1).

reactant | 6-bromoH-imidazo[1,2-a]pyridin 2-amine | 3.6 mmol, 0.771 g | C1=CC2=NC=CN2C=C1Br.COC1=NC(=NC2=C1C=CN2)N
reactant | pyridine | 5.5 mmol, 0.44 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
catalyst | DMAP | 0.018 mmol, 0.0022 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | N-(6-bromoimidazo[1,2-a]pyridin-2-yl)acetamide | 0.452 g, 49% | BrC=1C=CC=2N(C1)C=C(N2)NC(C)=O | C9H8BrN3O
